US08252933B2
tert-butyl phenylcarbamate:
Aniline (2.3 g, 25 mmol, 1 equiv) was dissolved in tetrahydrofuran (25 ml) at about 5° C. A solution of di-tert-butyl dicarbonate (6.0 g, 27.5 mmol) in tetrahydrofuran (10 ml) was added to the solution, and the resulting mixture was heated at reflux for about 2 hours. The solvent was removed in vacuo and the resulting residue was dissolved in ethyl acetate (50 ml). The resulting solution was washed with a 1M citric acid solution (2×50 ml) and brine (1×50 ml). The organic phase was dried over sodium sulfate and evaporated in vacuo to give the title product as a white solid (4.3 g, yield: 83%).

reactant | Aniline | 25 mmol, 2.3 g, 1 equiv | NC1=CC=CC=C1 | C6H7N
reactant | di-tert-butyl dicarbonate | 27.5 mmol, 6.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl phenylcarbamate | 4.3 g, yield: 83% | C1(=CC=CC=C1)NC(OC(C)(C)C)=O | C11H15NO2
